US03947470
A mixture of 11.6 g. (0.052 mol.) of 3,5-diethyl-4-methoxybenzoic acid methyl ester and 3.5 g. (0.09 mol.) of sodium hydroxide in 150 ml. of water is refluxed for 2 hours. The reaction mixture is cooled and acidified with 10% aqueous hydrochloric acid to give 3,5-diethyl-4-methoxybenzoic acid. The acid is refluxed with thionyl chloride as described in the procedure of Example 27 to give 3,5-diethyl-4-methoxybenzoyl chloride.

reactant | 3,5-diethyl-4-methoxybenzoic acid methyl ester | 0.052 mol | COC(C1=CC(=C(C(=C1)CC)OC)CC)=O | C13H18O3
reactant | sodium hydroxide | 0.09 mol | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3,5-diethyl-4-methoxybenzoic acid | C(C)C=1C=C(C(=O)O)C=C(C1OC)CC | C12H16O3
